* AC ANALYSIS

VS	1	0	DC 0    AC	1  PWL(0US 0V  0.01US 1V)

* INPUT AND OUTPUT TERMINALS OF OP-AMP
XOP	3 4	6	OPAMP1

RS	1	3	100
Rid 3   4   1K
RL	6	0	3.33K

* FEEDBACK LOOP
R2	6	4	9K
R1	4	0	1K


* OPAMP MACRO MODEL, SINGLE-POLE
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   output
*                   |   |   |
.SUBCKT OPAMP1	    3   4   6
* GAIN (mu) = 10K
EGAIN	5 0	3 4	10K

* OUTPUT RESISTANCE
RO	5	6	10K
.ENDS
*
* ANALYSIS
.AC 	DEC 	5 1 100MEG

.CONTROL
RUN
WRDATA ratio.dat V(6)/V(1)
.ENDC

.END
